US08071581B2
Compound 157: 6-(6-Ethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)-quinoline
To a solution of 3-(1-methyl-1H-pyrazol-4-yl)-6-(6-vinyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline (22 mg, 0.06 mmol) in dichloromethane (5 mL) and methanol (0.5 mL) under an atmosphere of N2(g) was added 10% palladium on carbon (20 mg) and the atmosphere replaced with H2(g). After stirring vigorously for 3 hours the mixture was filtered through a pad of celite and purified via flash column chromatography (SiO2, CH2Cl2, methanol 0-10%) to return the title compound as a white solid (17 mg, 77%). Analytical data presented in Table 2.

reactant | 3-(1-methyl-1H-pyrazol-4-yl)-6-(6-vinyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 0.06 mmol, 22 mg | CN1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C=C | C21H17N7
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 0.5 mL | CO | CH4O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | 6-(6-Ethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)-quinoline | C(C)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=2C=NN(C2)C | C21H19N7
